US20010016659A1
Entry 9: 4-Hydroxyacetophenone was reacted with 2-chloro-5-nitropyridine to give 4-(4-acetylphenoxy)-5-nitropyridine according to Method A3, Step 2. According to Method A8, Step 4, 4-(4-acetylphenoxy)-5-nitropyridine was reduced to 4-(4-acetylphenoxy)-5-aminopyridine. 2-Methoxy-5-(trifluoromethyl)aniline was converted to 2-methoxy-5-(trifluoromethyl)phenyl isocyanate according to Method B1. The isocyanate was reacted with 4-(4-acetylphenoxy)-5-aminopyridine according to Method C1a to afford the urea.

reactant | 4-Hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 4-(4-acetylphenoxy)-5-nitropyridine | C(C)(=O)C1=CC=C(OC2=CC=NC=C2[N+](=O)[O-])C=C1 | C13H10N2O4
